US05225402
A mixture of 10% palladium-carbon (0.4 g) and acetic acid (50 ml) is added to 6-nitro-1-[1-(2,4-dimethoxybenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril (4.0 g) and the mixture is subjected to catalytic reduction at 70° C. for 1 hour. The catalyst is filtered off and the filtrate is concentrated. The resulting residue is basified with 10% aqueous sodium hydroxide solution and extracted with dichloromethane. The solvent is concentrated and the resulting residue is purified by silica gel column chromatography (solvent; dichloromethane:methanol=20:1) to give 6-amino-1-[1-(2,4-dimethoxybenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril (1.9 g).

reactant | 6-nitro-1-[1-(2,4-dimethoxybenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 4.0 g | [N+](=O)([O-])C=1C=C2CCC(N(C2=CC1)C1CCN(CC1)C(C1=C(C=C(C=C1)OC)OC)=O)=O | C23H25N3O6
catalyst | palladium-carbon | 0.4 g | [C].[Pd]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 6-amino-1-[1-(2,4-dimethoxybenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 1.9 g | NC=1C=C2CCC(N(C2=CC1)C1CCN(CC1)C(C1=C(C=C(C=C1)OC)OC)=O)=O | C23H27N3O4
